US07368578B2
A mixture of ethyl (4-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate (1.50 g), [(1-ethyl-1H-pyrazol-4-yl)methyl]triphenylphosphonium chloride hydrochloride (2.29 g), anhydrous potassium carbonate (1.42 g) and N,N-dimethylformamide (30 mL) was stirred overnight at room temperature. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (3:7 to 1:1, v/v) to give ethyl {4-[4-({4-[({4-[(Z)-2-(1-ethyl-1H-pyrazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxy phenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate as colorless crystals (446 mg, yield 26%). The crystals were recrystallized from tetrahydrofuran-hexane. melting point: 140-141° C.

reactant | ethyl (4-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 1.50 g | C(=O)C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C33H31N3O7
reactant | [(1-ethyl-1H-pyrazol-4-yl)methyl]triphenylphosphonium chloride hydrochloride | 2.29 g | Cl.[Cl-].C(C)N1N=CC(=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 1.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl {4-[4-({4-[({4-[(Z)-2-(1-ethyl-1H-pyrazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxy phenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate | 446 mg, yield 26% | C(C)N1N=CC(=C1)\C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C39H39N5O6
